US08859592B2
A solution of 3,4-dimethyl-2-nitrobenzoic acid (13 g) and thionyl chloride (11.8 g) in toluene (100 ml) was refluxed for 4 h. The reaction mixture was cooled at 0° C., treated with methanol (15 ml) and the solvent was removed under vacuum. The reaction mixture was treated water (50 ml) and extracted with ethyl acetate (3×50 ml). The combined organic layers were dried over sodium sulfate and concentrated to give methyl 3,4-dimethyl-2-nitrobenzoate (10 g). 1H-NMR (400 MHz, CDCl3): 2.19 (s, 3H), 2.38 (s, 3H), 3.87 (s, 3H), 7.25 (d, 1H), 7.79 (d, 1H).

reactant | 3,4-dimethyl-2-nitrobenzoic acid | 13 g | CC=1C(=C(C(=O)O)C=CC1C)[N+](=O)[O-] | C9H9NO4
reactant | thionyl chloride | 11.8 g | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 15 ml | CO | CH4O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 3,4-dimethyl-2-nitrobenzoate | 10 g | CC=1C(=C(C(=O)OC)C=CC1C)[N+](=O)[O-] | C10H11NO4
